US06602884B2
0.695 g of sodium borohydride was added in several portions to a mixture of 0.98 g of methyl (3RS,4RS)-4-[3-hydroxyimino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate in 50-cm3 of methanol cooled to the region of −5° C., with stirring and under inert atmosphere. The reaction was very exothermic and in the vicinity of 0° C., 0.365 g of molybdenum trioxide were added all at once. The reaction mixture was stirred in the region of 20° C. for 20 hours and then it was cooled to the vicinity of −6° C. and 0.695 g of sodium borohydride and 0.365 g of molybdenum trioxide were again added. The reaction mixture was stirred for 5 hours in the region of 20° C. and was then filtered on celite and the insoluble matter was washed twice with 50-cm3 of methanol. The filtrate was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The evaporation residue was purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 m; diameter 3 cm; height 25 cm), eluting with a successive mixture of cyclohexane-ethyl acetate (50/50 by volume), ethyl acetate and then dichloromethane-methanol (90/10 by volume) and collecting 50-cm3 fractions. Fractions 17 to 20 were combined and then concentrated to dryness according to the conditions described above. 0.355 g of methyl (3RS,4RS)-4-[3-(R,S)amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate were obtained in the form of a colorless oil.

reactant | sodium borohydride | 0.695 g | [BH4-].[Na+]
reactant | methyl (3RS,4RS)-4-[3-hydroxyimino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate | 0.98 g | ON=C(CCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C27H32FN3O4S2
reactant | sodium borohydride | 0.695 g | [BH4-].[Na+]
solvent | methanol | 50-cm3 | CO | CH4O
catalyst | molybdenum trioxide | 0.365 g | [Mo](=O)(=O)=O
catalyst | molybdenum trioxide | 0.365 g | [Mo](=O)(=O)=O
product | methyl (3RS,4RS)-4-[3-(R,S)amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate | 0.355 g | NC(CCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C27H34FN3O3S2
